US07855202B2
3-Nitro-6-(1,3-oxazol-2-yl)pyridin-2-amine
A suspension of 2-methoxy-3-nitro-6-(1,3-oxazol-2-yl)pyridine (0.187 g, 0.85 mmol) in aqueous ammonia (32%, 5 mL) was heated in a sealed tube to 100° C. with stirring. After 2.5 hours the mixture was cooled and the precipitate was filtered and washed with water and then dried in vacuo to give the title compound (0.134 g, 77%) as a yellow solid.

reactant | 2-methoxy-3-nitro-6-(1,3-oxazol-2-yl)pyridine | 0.85 mmol, 0.187 g | COC1=NC(=CC=C1[N+](=O)[O-])C=1OC=CN1 | C9H7N3O4
reactant | ammonia | 5 mL | N | H3N
product | 3-Nitro-6-(1,3-oxazol-2-yl)pyridin-2-amine | 0.134 g, 77% | [N+](=O)([O-])C=1C(=NC(=CC1)C=1OC=CN1)N | C8H6N4O3
